US07741327B2
A solution of 3-(3-nitro-pyrazol-1-ylmethyl)-benzonitrile (507 mg, 2.22 mmol) in ethanol (25 mL) was hydrogenated in a Parr hydrogenator using 10% palladium on carbon (53 mg, 0.05 mmol) for 4 h at 50 psi at room temperature. The product was isolated, after filtration through a Celite plug, and purification by ISCO flash chromatography (Teledyne Isco RediSep Flash Column 4 g; 0% to 10% methanol/dichloromethane) to afford 3-(3-amino-pyrazol-1-ylmethyl)-benzonitrile, (283 mg, 64%) as light orange solid.

reactant | 3-(3-nitro-pyrazol-1-ylmethyl)-benzonitrile | 2.22 mmol, 507 mg | [N+](=O)([O-])C1=NN(C=C1)CC=1C=C(C#N)C=CC1 | C11H8N4O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.05 mmol, 53 mg | [Pd] | Pd
product | 3-(3-amino-pyrazol-1-ylmethyl)-benzonitrile | 283 mg, 64% | NC1=NN(C=C1)CC=1C=C(C#N)C=CC1 | C11H10N4
